US09227976B2
Step 1: N-(2-acetyl-5-phenyl-pyrazol-3-yl)acetamide
To a solution of 5-phenyl-1H-pyrazol-3-amine (18.6 g, 0.117 mol) and N-methylmorpholine (30.8 mL, 0.281 mol) in CH2Cl2 (250 mL) was added acetyl chloride (20 mL, 0.281 mol) dropwise at 0° C. under an atmosphere of nitrogen. The reaction mixture was stirred at room temperature for 3 h. The reaction mixture was diluted with CH2Cl2 and water. The layers were separated and the organic layer was washed with water and brine, dried (phase separator cartridge) and concentrated in vacuo. Diethyl ether was added to the residue and the solid was collected by filtration, yielding the title compound as a solid (25.1 g).

reactant | 5-phenyl-1H-pyrazol-3-amine | 0.117 mol, 18.6 g | C1(=CC=CC=C1)C1=CC(=NN1)N | C9H9N3
reactant | N-methylmorpholine | 0.281 mol, 30.8 mL | CN1CCOCC1 | C5H11NO
reactant | acetyl chloride | 0.281 mol, 20 mL | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-(2-acetyl-5-phenyl-pyrazol-3-yl)acetamide | 25.1 g | C(C)(=O)N1N=C(C=C1NC(C)=O)C1=CC=CC=C1 | C13H13N3O2
